US07521570B2
(3) Preparation of 2-ethyl-3-(p-hydroxy benzoyl)-6-methoxy benzofuran
Dimethyl formamide solution of 3-(p-anisoyl)-2-ethyl -6-methoxybenzofuran (2.39 g, 7.7 mmol) and ethanethiolic sodium salt (971 mg, 11.5 mmol) was stirred at 80° C. for 4 hours. This reaction was completed using NH4Cl solution and extraction was performed with chloroform. The extract was washed with water and saline solution, dried over Ma2SO4, and concentrated under reduced pressure. The residue was purified by HPLC (silica gel, ethyl acetate:hexane=2:8) and a target product (2.28 g, 7.70 mmol, 100%) was obtained.

reactant | 3-(p-anisoyl)-2-ethyl -6-methoxybenzofuran | 7.7 mmol, 2.39 g | C(C1=CC=C(C=C1)OC)(=O)C1=C(OC2=C1C=CC(=C2)OC)CC | C19H18O4
reactant | sodium | 11.5 mmol, 971 mg | [Na] | Na
solvent | Dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-ethyl-3-(p-hydroxy benzoyl)-6-methoxy benzofuran | 7.70 mmol, 2.28 g, 100% | C(C)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC(=C2)OC | C18H16O4
